US05260293
1. 2-Hydroxy-3,5-dimethylpyrazine
The title-compound was prepared from alanine amide hydrochloride and pyruvic aldehyde as described by Karmas and Spoerri, J. Am. Chem. Soc., 1952, 74, 1580 m.p.=149.5°-151° C. (Lit. 146°-147° C.).

reactant | alanine amide hydrochloride | Cl.N[C@@H](C)C(=O)N
reactant | pyruvic aldehyde | CC(=O)C=O | C3H4O2
product | 2-Hydroxy-3,5-dimethylpyrazine | OC1=NC=C(N=C1C)C | C6H8N2O
